US05889002
c) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N'-isopropylthiourea
Potassium tert-butoxide (0.49 g, 4.4 mmol) was added to a solution of 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride (0.5 g, 2.0 mmol) in dry N,N-dimethylformamide (5 ml) with stirring on an ice bath. After 5 min, isopropyl isothiocyanate (0.26 ml, 2.4 mmol) was added dropwise to the resulting suspension, and the mixture was stirred for 30 min at 0° C. The cooling bath was removed, and stirring was continued at room temperature for 30 min. The solvent was evaporated at <50° C., and the residue was taken up in 25 ml of water, treated with decolorising charcoal, and filtered. Acidification of the filtrate with acetic acid to pH 3-4 and filtration afforded 0.50 g (80%) the title compound; mp 142.0°-142.5° C. decomp., 1H-NMR (DMSO-d6): δ 1.12 (d, 6H), 4.25 (m, 1H), 6.48 (br s, 2H), 6.65 (s, 1H), 8.02 (d, 1H), 11.2 (br s, 1H).

reactant | Potassium tert-butoxide | 4.4 mmol, 0.49 g | CC(C)([O-])C.[K+]
reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | 2.0 mmol, 0.5 g | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | isopropyl isothiocyanate | 2.4 mmol, 0.26 ml | C(C)(C)N=C=S | C4H7NS
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N'-isopropylthiourea | 0.50 g, 80% | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NC(C)C | C8H12ClN3O2S3
